* C:\Users\bruno\Documents\GitHub\TC2\TP Semanales\Ltspice\TPS2_FPBajo.asc
V1 Vi 0 AC 1
R1 N001 Vi 1k
R2 N002 N001 500
R3 N005 N002 1k
R4 Vo N001 1k
R5 N004 N003 100
R6 Vo N004 100
C1 N002 N001 {C}
C2 N003 N005 1µ
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
XU2 0 N005 Vo opamp Aol=100K GBW=10Meg
XU3 N004 0 N003 opamp Aol=100K GBW=10Meg
.inc opamp.sub
.ac dec 100 1 10k
* Filtro pasa bajos
.step param C list 1u 2u 3u
.backanno
.end
