* C:\Users\bruno\Documents\GitHub\TC2\TP Semanales\Ltspice\TPS2_FPBanda.asc
V1 Vi 0 AC 1
R1 N001 Vi 6285
R2 VB N001 6285
R3 N005 VB 419
R4 N002 N001 419
R5 N004 N003 10k
R6 N002 N004 10k
C1 VB N001 0.01µ
C2 N003 N005 0.01µ
XU1 N001 0 VB opamp Aol=100K GBW=10Meg
XU2 0 N005 N002 opamp Aol=100K GBW=10Meg
XU3 N004 0 N003 opamp Aol=100K GBW=10Meg
.inc opamp.sub
.ac dec 1000 10k 100k
.backanno
.end
