* C:\Users\bruno\OneDrive\Documentos\TC2\GitHub\TC2\TP Semanales\TS5\LTspice\ej2b.asc
R1 N002 N001 {R/b}
C1 N002 N001 {C*a}
L1 N001 N002 {L/d}
R2 0 N002 {R/(1-b)}
C2 0 N002 {C*(1-a)}
L2 N002 0 {L/(1-d)}
V1 N001 0 AC 1
.param R=1 C=1/Q L=Q
.param Q= {1/sqrt(2)}
.param a=1/16 b=0.001 d=0.999
.ac dec 1000 0.01 10
.backanno
.end
