* D:\Documentos\TC2\TC2\TP Semanales\TS6\Ltspice\GIC.asc
R1 N001 0 1
R2 N007 N001 0.888
R3 N003 N007 10
R4 N002 N003 10
R5 N008 N006 1.125
C1 N001 N006 530.5µ
C2 N008 N002 530.5µ
V1 N004 0 AC 1
XU1 N003 N008 N007 opamp Aol=100K GBW=10Meg
XU2 N003 N001 N002 opamp Aol=100K GBW=10Meg
R6 N005 N004 1
L1 N005 0 530.5µ
XU3 N006 N005 N006 opamp Aol=100K GBW=10Meg
.ac dec 1000 1 1000
.inc opamp.sub
.backanno
.end
