* C:\Users\bruno\Documents\GitHub\TC2\TP Semanales\TS4\Ltspice\pasabanda_rlc_desnorm.asc
V1 N010 0 AC 1
L2 N002 N007 1.2855
C2 N006 N007 50p
R2 N006 0 10k
XU2 N005 N012 N005 opamp Aol=100K GBW=10Meg
L3 N005 N008 1.0489
C3 N009 N008 40.65p
R3 N009 0 10k
XU3 N003 0 N004 opamp Aol=100K GBW=10Meg
R4 N003 N001 1
R5 N004 N003 11.77
L4 N010 N011 577m
C4 N012 N011 90.649pF
R6 N012 0 10k
XU1 N002 N009 N002 opamp Aol=100K GBW=10Meg
XU4 N001 N006 N001 opamp Aol=100K GBW=10Meg
.lib opamp.sub
.ac dec 1000 10 100k
.backanno
.end
